Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:4].[O:1]=[C:2]([H:3])[C:5]([C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[O:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.0036681020799998
[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7])=[C:9]([H:10])[H:11].[H:8],4.06112676956
[H:1][C:2][O:3][C:4]1[C:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-1.32937336783
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-8.37606601457
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],2.07938767288
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[C:10]([H:11])[H:12].[H:1][O:2][O:3],3.0208332771599995
[C:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10].[H:8]>>[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-3.08121951981
[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4][O:5][C:6][H:7]>>[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10],-7.40486921847
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[C:11][O:12][H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],3.23240837822
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][H:5].[O:6][O:7][C:8]([H:9])([H:10])[H:11],3.47506889072
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],1.80289617666
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])[H:15],-4.589438735480001
[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.77661939323
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][O:8][H:9]>>[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7][O:8][H:9],4.13856281899
[H:1][O:2][C:3]([H:4])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.48052803914
[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.82861828654
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],8.543539726
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[C:12]([H:13])([H:14])=[C:15]([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],1.24886438248
[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.43505832937
[C:6]([H:7])([H:8])=[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-2.15369578335
[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.06106743737
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8]>>[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8].[O:1],7.8061826
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],4.61390115747
[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.09318985134
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.96525660338
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],3.78425195684
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-4.32875603113
[H:11].[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.11924595133
